US05262509
C. Synthesis of 4,4'-Diacetamidostilbene
4,4'-Diaminostilbene (8.9 grams, 0.0847 --NH2 equivalent) from B above, is ground to a fine powder and added to a beaker containing stirred, 90° C. deionized water (1500 milliliters). After two minutes, aqueous 36.5% hydrochloric acid (8.47 grams, 0.0847 mole) is added to the stirred, 90° C. suspension. The solution which formed within five minutes is cooled to 60° C. Acetic anhydride (10.61 grams, 0.1039 mole) is added to the stirred solution and mixed therein for 30 seconds before addition of an aqueous sodium acetate solution (prepared by dissolution of anhydrous sodium acetate [1 3. 89 grams, 0. 1693 mole] in deionized water [4 1.7 grams]) . After thoroughly stirring the white slurry, it is maintained at 4° C. for 16 hours, followed by filtration to remove the precipitated product. The recovered filter cake is washed with two portions (250 milliliters) of deionized water then dried in a vacuum oven at 80° C. and 2 mm Hg to a constant weight of 11.44 grams. The product is recovered as a tan colored crystalline powder. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of the product confirms the product structure: disappearance of the absorbances observed for the --NH2 group, appearance of solid state >NH stretching absorbances at 3309 (3396 and 3190 shoulders) cm-1, a solid state amide I carbonyl stretching absorbance at 1669 cm-1, a solid state amide II carbonyl stretching absorbance at 1516 cm-1 (masking the aromatic ring absorbance), an out-of-plane C--H deformation at 959 cm-1 due to the trans substituted ethylene group and a C--H out-of-plane bending vibration at 832 cm-1 due to the para-disubstituted aromatic rings. Proton nuclear magnetic resonance spectroscopy further confirms the product structure.

reactant | 4,4'-Diaminostilbene | 8.9 grams | NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N | C14H14N2
reactant | hydrochloric acid | 0.0847 mole, 8.47 grams | Cl | ClH
reactant | Acetic anhydride | 0.1039 mole, 10.61 grams | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 1693 mole, 89 grams | C(C)(=O)[O-].[Na+]
solvent | water | 1500 milliliters | O | H2O
product | 4,4'-Diacetamidostilbene | C(C)(=O)NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)NC(C)=O | C18H18N2O2
